US06680332B1
2-Amino-3-cyano-7,7-dimethyl-4-(4-methoxyphenyl)-5-oxo-5,6,7,8-tetrahydro-4H-1-benzopyran
A stirred solution of p-anisaldehyde (1.74 mL, 14.3 mmol) and malononitrile (0.90 mL, 14.28 mmol) in 75 mL of 95% EtOH at RT was treated with a few drops of piperidine and after about 5 min, a yellow precipitate was formed and the mixture was stirred for another 10 min after which 5,5-dimethylcyclohexan-1,3-dione (2.00 g, 14.3 mmol) was added as a solid in one portion. The stirred suspension became a solution after about 5 min. After about 2 h a white precipitate was formed and TLC analysis showed complete reaction. The precipitate was filtered and washed with cold 95% EtOH then dried under vacuum, resulting in 3.71 g (81%) of the title compound as a white solid, mp 197-200° C. 1H NMR (DMSO-d6): 7.04 (d, 2H), 6.96 (bs, 2H), 6.83 (d, 2H), 4.11 (s, 1H), 3.71 (s, 3H), 2.49 (m, 2H), 2.15 (m, 2H), 1.03 (s, 3H), 0.94 (s, 3H).

reactant | p-anisaldehyde | 14.3 mmol, 1.74 mL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | malononitrile | 14.28 mmol, 0.90 mL | C(CC#N)#N | C3H2N2
reactant | 5,5-dimethylcyclohexan-1,3-dione | 14.3 mmol, 2.00 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
solvent | EtOH | 75 mL | CCO | C2H6O
catalyst | piperidine | a few drops | N1CCCCC1 | C5H11N
product | 2-Amino-3-cyano-7,7-dimethyl-4-(4-methoxyphenyl)-5-oxo-5,6,7,8-tetrahydro-4H-1-benzopyran | 3.71 g, 81% | NC=1OC2=C(C(C1C#N)C1=CC=C(C=C1)OC)C(CC(C2)(C)C)=O | C19H20N2O3
